US04149872
(a) 2-hydroxy-5-nitropyridine
A mixture containing 500 g (3.6 mol) of 2-amino-5-nitropyridine in 2000 ml of 10% sodium hydroxide was refluxed at about 102° C. for 10 hours, cooled and filtered. The filter cake was dissolved in water and neutralized with hydrochloric acid. The product was filtered and dried to give 301.7 g (60%) of product as a white powdery solid, m.p. 188°-190° C.

reactant | 2-amino-5-nitropyridine | 3.6 mol, 500 g | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
reactant | sodium hydroxide | 2000 ml | [OH-].[Na+]
product | 2-hydroxy-5-nitropyridine | 301.7 g, 60% | OC1=NC=C(C=C1)[N+](=O)[O-] | C5H4N2O3
